US06262059B1
4-Amino-6,7-dimethoxy-2-[4-(thiazole-4-carbonyl)-piperazin-1-yl]quinazoline Hydrochloride
The title compound was prepared from thiazole-4-carbonyl chloride (1.02 g.) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (2.00 g.) following previously described procedures. The product had a m.p. of 274°-277° C. with decomposition.

reactant | thiazole-4-carbonyl chloride | 1.02 g | S1C=NC(=C1)C(=O)Cl | C4H2ClNOS
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 2.00 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(thiazole-4-carbonyl)-piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1N=CSC1 | InChI=1S/C18H20N6O3S.ClH/c1-26-14-7-11-12(8-15(14)27-2)21-18(22-16(11)19)24-5-3-23(4-6-24)17(25)13-9-28-10-20-13;/h7-10H,3-6H2,1-2H3,(H2,19,21,22);1H
